Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
B/l Lower extremity swelling and pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .
.
Date: ___
Time: 0030 pm
.
_
________________________________________________________________
PCP: PCP: None at moment ___, MD to take over). 
CHIEF COMPLAINT: Leg Swelling. 

HPI: Ms. ___ is a ___ year old female, with past history of TBI 
___ to ___ with residual right sided hemiparesis, dysarthria, 
who is wheelchair bound, presenting with right lower extremity 
swelling and pain. 

Patient reports that her friend, ___, had previously 
visited her about 4 days ago, and had noticed that she had 
increased bilateral leg swelling, and some redness. The patient 
states that she has had swelling in her legs for months. She put 
off coming because she does not have anyone to care for her cat. 
The pain in her leg worsened such that she came to the ER.  
Patient also was noted to have an open sore on the left lower 
extremity, and states that her legs had been painful. Patient 
reports that her swelling and redness in her legs has been quite 
worse, especially L > R. She denies any fevers, chills, 
sensation changes that are new compared to her previous right 
sided hemiparesis.  She denies any dyspnea, chest pain, 
lightheadedness, fevers, chills, nausea, or vomiting. Patient 
then called ___ for triage, and patient has been having these 
symptoms for several weeks however did not want to leave home as 
she did not have a cat sitter.

Of note, patient is a new patient to the ___ practice for the 
past ___ years. She has not had any of these symptoms previously. 
Her previous care was at the ___. Initially patient was to be 
seen at the ___ clinic practice for an episodic visit, however 
this was deferred and an ambulance was arranged. 

Upon arrival to the ___ ED, patient was found to have 
bilateral lower extremity edema, with right sided weakness 
consistent with prior diagnosis. 

In the ED, initial vital signs were: 96.8 77 130/70 16 100% RA  
- Exam was notable for: 2+ bilateral pitting edema, with left 
leg dry skin callus, hyper pigmented skin, and painful leg. No 
palpable abscess. 
- Labs were notable for: WBC 7.3, Hgb 12.9, Platelet 215. BNP 
55. Electrolytes wnl. U/A remarkable for trace protein, 10 
ketones, RBC 12, WBC 6. UCG negative. Lactate 1.1. 
- Imaging: Bilateral lower extremity ultrasound ordered. 
- The patient was given:
___ 19:21 IV Vancomycin 1000 mg ___  
Vitals prior to transfer were: 96.8 77 130/70 16 100% RA 
 
REVIEW OF SYSTEMS:
 CONSTITUTIONAL:  As per HPI
 HEENT:  [X] All normal
 RESPIRATORY:  [X] All normal
 CARDIAC:  [X] All normal
 GI:  As per HPI
 GU:  [X] All normal
 SKIN:  [X] All normal
 MUSCULOSKELETAL:  [X] All normal
 NEURO:  [X] All normal
 ENDOCRINE:  [X] All normal
 HEME/LYMPH:  [X]  All normal
 PSYCH:  [X] All normal

All other systems negative except as noted above
 
Past Medical History:
PAST MEDICAL HISTORY:
1. Neurologic Deficit: s/p MVA in ___ with head injury, coma 
for 6 months with subsequent. Slowed speech and now wheelchair 
bound. Patient was hit on ___ by a Coke truck while 
corssing the street. 
2. Onychomycosis
3. Vitamin D Deficiency
4. Osteopenia. 

PAST SURGICAL HISTORY: 
1. Right shoulder surgery, ___
2. Left Hand Surgery, ___. 

 
Social History:
___
Family History:
FAMILY HISTORY:
Mother: ___, age ___ with Lymphoma
Father: Unknown
Brother: Living, healthy ___

 
Physical Exam:
 Vitals:  T 97.8 P 72 BP 132/56 RR 20  SaO2 95% RA
 GEN: NAD, comfortable appearing  
 HEENT: ncat anicteric MMM  
 NECK: supple 
 CV: s1s2 rr no m/r/g  
 RESP: b/l ae no w/c/r  
 ABD: +bs, soft, NT, ND, no guarding or rebound  
EXTR: L ___ with increased swelling and warmth with verrucus 
swelling present close to L medial malleolus. + pressure with 
pus expressed. RLE with erythema and edema but < than L
 DERM: no rash  
 NEURO: L sided facial droop. + dysphagia
ABle to lift b/l legs off the bed and L arm. Weakness in RUE 
noted
 PSYCH: calm, cooperative  
 
Pertinent Results:
___ 06:19PM URINE  HOURS-RANDOM
___ 06:19PM URINE  HOURS-RANDOM
___ 06:19PM URINE  UCG-NEGATIVE
___ 06:19PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:19PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:19PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 06:19PM URINE  RBC-12* WBC-6* BACTERIA-NONE YEAST-NONE 
EPI-1
___ 06:19PM URINE  AMORPH-RARE CA OXAL-RARE
___ 06:19PM URINE  MUCOUS-RARE
___ 02:50PM   LACTATE-1.1
___ 02:44PM   GLUCOSE-79 UREA N-16 CREAT-0.6 SODIUM-142 
POTASSIUM-4.6 CHLORIDE-108 TOTAL CO2-25 ANION GAP-14
___ 02:44PM   estGFR-Using this
___ 02:44PM   proBNP-55
___ 02:44PM   WBC-7.3 RBC-3.80* HGB-12.9 HCT-38.9 MCV-102* 
MCH-33.9* MCHC-33.2 RDW-11.6 RDWSD-43.3
___ 02:44PM   NEUTS-64.8 ___ MONOS-6.7 EOS-1.5 
BASOS-1.4* IM ___ AbsNeut-4.71 AbsLymp-1.84 AbsMono-0.49 
AbsEos-0.11 AbsBaso-0.10*
___ 02:44PM   PLT COUNT-215
=================================
 
Brief Hospital Course:
ASSESSMENT & PLAN: Ms. ___ is a ___ year old female, with past 
history of traumatic brain injury ___ MVA with residual 
neurologic deficts, disabled but independently living utilizing 
a wheelchair, presenting with leg pain, swelling and redness 
consistent with cellulitis.  There was no radiographic evidence 
of DVT, abscess, or osteomyelitis.  There was a dried scab over 
her left lateral malleolus, as well as a superficial curvilinear 
laceration over her left shin, that may have served as portals 
of entry for infection.  Her cellulitis improved with 
intravenous vancomycin, and continued to improve with transition 
to Bactrim/Keflex.  She had no evidence of significant systemic 
septic complications.  She was thus discharged to home in stable 
condition, with instructions to follow-up in HCA to ensure 
appropriate resolution.

 
Medications on Admission:
None
 
Discharge Medications:
1. Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth every 6 hours Disp 
#*20 Capsule Refills:*0
2. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice daily Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left lower leg cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Please take antibiotics as prescribed
Elevate your left leg when possible
 
Followup Instructions:
___